US07384967B2
2-(2-Methoxyphenoxy)-1-nitrobenzene (0.99 g, 81%) was prepared from 2-methoxyphenol (0.68 g, 5.5 mmol) and 1-fluoro-2-nitrobenzene (0.71 g, 5.0 mmol) following the general procedure A. This was reduced to 2-(2-methoxyphenoxy)aniline (0.63 g, 73%) following general procedure B. N-2-(2-Methoxyphenoxy)phenyl-N′-(thiazol-2-yl)urea (110 g, 65%) was prepared from 2-(2-methoxyphenoxy)aniline (108 mg, 0.5 mmol) and 2-aminothiazole (60 mg, 0.6 mmol) following the general procedure D.

reactant | 2-methoxyphenol | 5.5 mmol, 0.68 g | COC1=C(C=CC=C1)O | C7H8O2
reactant | 1-fluoro-2-nitrobenzene | 5.0 mmol, 0.71 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-(2-methoxyphenoxy)aniline | 0.63 g | COC1=C(OC2=C(N)C=CC=C2)C=CC=C1 | C13H13NO2
reactant | 2-(2-methoxyphenoxy)aniline | 0.5 mmol, 108 mg | COC1=C(OC2=C(N)C=CC=C2)C=CC=C1 | C13H13NO2
reactant | 2-aminothiazole | 0.6 mmol, 60 mg | NC=1SC=CN1 | C3H4N2S
product | 2-(2-Methoxyphenoxy)-1-nitrobenzene | 0.99 g, 81% | COC1=C(OC2=C(C=CC=C2)[N+](=O)[O-])C=CC=C1 | C13H11NO4
